US08049015B2
N-Benzyl-N-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide (0.288 g, 0.58 mmol), (trimethylsilyl)acetylene (0.08 mL, 0.58 mmol), and copper iodide (0.011 g, 0.06 mmol) were combined in triethylamine (3.5 mL), and the solution was purged with N2 for 25 minutes. Dichlorobis(triphenylphosphine)palladium(II) (0.042 g, 0.06 mmol) was added, and the reaction was stirred at room temperature overnight. A few drops of DMF was added, and the reaction was stirred at 50° C. for 5 hours, and at 60° C. for 3 hours. The mixture was worked-up with CH2Cl2 and H2O, and the combined organic layers were dried, filtered, and concentrated. The residue was purified by silica gel chromatography (0-30% EtOAc in hexanes) to give N-benzyl-N-[2-(2-methoxy-5-trimethylsilanylethynyl-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide.

reactant | N-Benzyl-N-[2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide | 0.58 mmol, 0.288 g | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)Br)OC | C23H20BrF3N2O2
reactant | (trimethylsilyl)acetylene | 0.58 mmol, 0.08 mL | C[Si](C)(C)C#C | C5H10Si
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | H2O | O | H2O
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
catalyst | DMF | A few drops | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.06 mmol, 0.011 g | [Cu](I)I
catalyst | Dichlorobis(triphenylphosphine)palladium(II) | 0.06 mmol, 0.042 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-benzyl-N-[2-(2-methoxy-5-trimethylsilanylethynyl-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)C#C[Si](C)(C)C)OC | C28H29F3N2O2Si
